US06727264B1
N-[3-(1-{3-(4-METHOXYPHENYL)-3-[4-(TRIFLUOROMETHYL)PHENOXY]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-hydroxy-3-(4-methoxyphenyl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-trifluoromethyphenol: ESMS m/e: 555.1 (M+H)+.

reactant | N-(3-{1-[3-hydroxy-3-(4-methoxyphenyl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | OC(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=C(C=C1)OC | C25H34N2O3
reactant | 4-trifluoromethyphenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
product | N-[3-(1-{3-(4-METHOXYPHENYL)-3-[4-(TRIFLUOROMETHYL)PHENOXY]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | COC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=CC=C(C=C1)C(F)(F)F | C32H37F3N2O3
